US06307047B1
2-(3-Chlorophenyl)-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
A solution of 2-(3-chlorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone, prepared in Example 332, in POCl3 was heated to reflux for 3 hours while stirring under nitrogen. The mixture was cooled to room temperature and poured into ice with constant swirling. The resulting white solid was extracted with ethyl acetate. The combined organics were washed with H2O, dried over MgSO4, and concentrated to a solid. The crude product was purified using flash chromatography (SiO2, eluting with 1:1 ethyl acetate/hexanes) to provide the desired product (yield: 0.151 g, 29%). mp 203-204° C. 1H NMR (300 MHz, DMSO d6) δ 3.29-3.36 (3H, obstructed by H2O), 7.60 (m, 3H), 7.76 (m, 1H), 7.92 (m, 2H), 8.14 (m, 2H), 8.25 (s, 1H). MS (DCI/NH3) m/z 395 (M+H)+, 412 (M+NH4)+. Anal. calc. for C17H12Cl2N2O3S: C, 51.66; H, 3.06; N, 7.09. Found: C, 51.67; H, 3.03; N, 6.93.

reactant | 2-(3-chlorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C17H13ClN2O4S
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(3-Chlorophenyl)-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 0.151 g, 29% | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C17H12Cl2N2O3S
